### ISSUE TITLE
[Problem] JSP-000558 / Erdős 686: Lean-verified restricted lemma for N=4, k=8

### ISSUE THREAD

**Issue by jinkaizhang236-sketch** [TheJustinSunPrize/awards#91]
### Problem and original source

JSP-000558: https://github.com/TheJustinSunPrize/awards/blob/main/problems/catalog-0501-0600.md#JSP-000558 Original problem and discussion: https://www.erdosproblems.com/686 and https://www.erdosproblems.com/forum/thread/686 Formal source statement: https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ErdosProblems/686.lean

### Statement and significance

This is a restricted lemma, not a solution of the original problem:

For every n,m in the natural numbers with m≥n+8,

(m+1)(m+2)⋯(m+8) ≠ 4(n+1)(n+2)⋯(n+8).

Equivalently, the ratio of these two products, taken in the rational numbers, cannot be 4. The interval length is fixed at 8. The original question, with arbitrary length k≥2, remains unresolved by this work.

### Known results and verification evidence

The elementary proof uses F(x)=Q(x)²−R(x), where

F(x)=∏_{i=1}^8(x+i), Q(x)=x⁴+18x³+111x²+270x+204, and R(x)=16(2x+9)².

For x≥5, the positive-coefficient identity

Q(x)−R(x)=(x−5)⁴+38(x−5)³+467(x−5)²+2014(x−5)+1428

shows 0<R(x)<Q(x). The cases n≤4 are excluded by monotonicity and F(8)>4F(4). If F(m)=4F(n), an integer comparison of consecutive squares then forces Q(m)=2Q(n), hence R(m)=4R(n). This gives 4(m²+9m−4n²−36n)=243, a contradiction.

The product identity is already present, after a variable shift, in Ed Barbeau, “Products of consecutives that are close to squares”, page 8: https://www.math.utoronto.ca/barbeau/vig11.pdf . Related approximation arguments appear in Vjeko Kovač's discussion of k=6 in the original problem forum. No novelty or priority claim is made for these ingredients; priority for the stated k=8 lemma has not been established.

The Lean project fixes Lean 4.33.1 and Mathlib commit 0df444a360eaa60ab8c11dca51a86af692955474. Its final theorem is Erdos686K8.erdos_686_four_eight, using exactly the original natural variables, disjointness condition, and rational quotient. The local build and axiom logs are reproduced below. Its dependencies are the standard axioms propext, Classical.choice, and Quot.sound; it has no sorryAx or newly postulated axioms.

The complete source files and dependency pins are reproduced below. Their SHA-256 digests identify the checked content. This issue is an initial evidence submission, not an immutable proof repository or a completed official verification record. No official checker signatures, novelty certification, or prize acceptance are asserted.

<details>
<summary>Erdos686K8.lean</summary>

SHA-256: `a93ca86e66903ca5695ed276671781cdbba4e5250f2431c18bbe9312fc895ece`

```lean
import Mathlib.Tactic

/-!
# A restricted case of Erdős problem 686 (JSP-000558)

For nonnegative integers n and m with m ≥ n + 8, the product of
m+1,...,m+8 is not four times the product of n+1,...,n+8.

This does NOT settle the question with unrestricted interval length.
The polynomial approximation method follows the method used for k=6
by Vjeko Kovač in https://www.erdosproblems.com/forum/thread/686.
The eight-factor polynomial identity also appears in Ed Barbeau,
"Products of consecutives that are close to squares", page 8,
https://www.math.utoronto.ca/barbeau/vig11.pdf (with the variable shifted by one).
No claim of priority or award eligibility is made here.
-/

namespace Erdos686K8

def F (x : ℤ) : ℤ :=
  (x + 1) * (x + 2) * (x + 3) * (x + 4) *
    (x + 5) * (x + 6) * (x + 7) * (x + 8)

def Q (x : ℤ) : ℤ := x ^ 4 + 18 * x ^ 3 + 111 * x ^ 2 + 270 * x + 204

def R (x : ℤ) : ℤ := 16 * (2 * x + 9) ^ 2

lemma identity (x : ℤ) : F x = (Q x) ^ 2 - R x := by
  unfold F Q R
  ring

lemma monotone_F {x y : ℤ} (hx : 0 ≤ x) (hxy : x ≤ y) : F x ≤ F y := by
  have hy : 0 ≤ y := le_trans hx hxy
  unfold F
  gcongr

lemma remainder_bounds {x : ℤ} (hx : 5 ≤ x) : 0 < R x ∧ R x < Q x := by
  have hy : 0 ≤ x - 5 := by omega
  have hcert : Q x - R x =
      (x - 5) ^ 4 + 38 * (x - 5) ^ 3 + 467 * (x - 5) ^ 2 +
      2014 * (x - 5) + 1428 := by
    unfold Q R
    ring
  have hnonneg : 0 ≤
      (x - 5) ^ 4 + 38 * (x - 5) ^ 3 + 467 * (x - 5) ^ 2 + 2014 * (x - 5) := by
    positivity
  constructor
  · unfold R
    have : 0 < 2 * x + 9 := by omega
    positivity
  · omega

lemma integer_sandwich (q t a b : ℤ)
    (ha : 0 < a) (haq : a < q) (hb : 0 < b) (hbt : b < t)
    (heq : t ^ 2 - b = 4 * (q ^ 2 - a)) : t = 2 * q := by
  have hq : 1 ≤ q := by omega
  have ht : 1 ≤ t := by omega
  have haq' : a ≤ q - 1 := by omega
  have hbt' : b ≤ t - 1 := by omega
  by_contra hne
  rcases lt_or_gt_of_ne hne with hlt | hgt
  · have hleft : 0 ≤ 2 * q - 1 - t := by omega
    have hright : 0 ≤ 2 * q - 1 + t := by omega
    have hp := mul_nonneg hleft hright
    nlinarith
  · have hleft : 0 ≤ t - 1 - 2 * q := by omega
    have hright : 0 ≤ t - 1 + 2 * q := by omega
    have hp := mul_nonneg hleft hright
    nlinarith

theorem no_four_ratio_int (n m : ℕ) (hdisjoint : n + 8 ≤ m) :
    F (m : ℤ) ≠ 4 * F (n : ℤ) := by
  intro heq
  have hn : (5 : ℤ) ≤ n := by
    by_contra hn
    have hn4 : (n : ℤ) ≤ 4 := by omega
    have hm8 : (8 : ℤ) ≤ m := by omega
    have hupper := monotone_F (x := (n : ℤ)) (y := 4) (by omega) hn4
    have hlower := monotone_F (x := 8) (y := (m : ℤ)) (by norm_num) hm8
    have hgap : 4 * F 4 < F 8 := by norm_num [F]
    omega
  have hm : (5 : ℤ) ≤ m := by omega
  obtain ⟨han, hqn⟩ := remainder_bounds hn
  obtain ⟨ham, hqm⟩ := remainder_bounds hm
  have halg : (Q (m : ℤ)) ^ 2 - R (m : ℤ) =
      4 * ((Q (n : ℤ)) ^ 2 - R (n : ℤ)) := by
    simpa only [identity] using heq
  have hqeq := integer_sandwich (Q (n : ℤ)) (Q (m : ℤ))
    (R (n : ℤ)) (R (m : ℤ)) han hqn ham hqm halg
  have hreq : R (m : ℤ) = 4 * R (n : ℤ) := by
    rw [hqeq] at halg
    nlinarith [halg]
  have hparity : 4 * ((m : ℤ) ^ 2 + 9 * m - 4 * (n : ℤ) ^ 2 - 36 * n) = 243 := by
    unfold R at hreq
    nlinarith [hreq]
  omega

def intervalProduct (n k : ℕ) : ℕ := ∏ i ∈ Finset.range k, (n + i + 1)

lemma intervalProduct_eight (n : ℕ) : (intervalProduct n 8 : ℤ) = F (n : ℤ) := by
  norm_num [intervalProduct, Finset.prod_range_succ, F]
  ring

theorem no_four_ratio (n m : ℕ) (hdisjoint : n + 8 ≤ m) :
    intervalProduct m 8 ≠ 4 * intervalProduct n 8 := by
  intro heq
  have hcast : (intervalProduct m 8 : ℤ) = 4 * (intervalProduct n 8 : ℤ) := by
    exact_mod_cast heq
  rw [intervalProduct_eight, intervalProduct_eight] at hcast
  exact no_four_ratio_int n m hdisjoint hcast

#print axioms no_four_ratio

end Erdos686K8
```

</details>

<details>
<summary>StatementMatch.lean</summary>

SHA-256: `69ae9f524f1771a0430dd2442cbdcc0cc10db9ceda8f5295636306fdd09b1138`

```lean
import Erdos686K8
import Mathlib.Algebra.BigOperators.Intervals

/-!
# Match the restricted theorem to the source formulation

The source statement at
https://github.com/google-deepmind/formal-conjectures/blob/main/FormalConjectures/ErdosProblems/686.lean
uses products over the inclusive natural interval `Finset.Icc 1 k`,
with the natural products cast to rationals before division.

The theorem below is precisely the negative answer for the single case
`N = 4`, `k = 8`, including `n : ℕ` and the disjointness constraint
`n + 8 ≤ m`.  It does not address arbitrary `k`.
-/

namespace Erdos686K8

/-- Changing the product index from `0,...,k-1` to `1,...,k`. -/
lemma intervalProduct_eq_prod_Icc (n k : ℕ) :
    intervalProduct n k = ∏ i ∈ Finset.Icc 1 k, (n + i) := by
  induction k with
  | zero => simp [intervalProduct]
  | succ k ih =>
    rw [intervalProduct, Finset.prod_range_succ]
    change intervalProduct n k * (n + k + 1) = _
    rw [ih, Finset.prod_Icc_succ_top (by omega : 1 ≤ k + 1)]
    simp only [Nat.add_assoc]

lemma intervalProduct_pos (n k : ℕ) : 0 < intervalProduct n k := by
  unfold intervalProduct
  apply Finset.prod_pos
  intro i hi
  omega

/-- The source quotient is taken in ℚ, after forming each product in ℕ. -/
theorem no_four_ratio_rational (n m : ℕ) (hdisjoint : n + 8 ≤ m) :
    (4 : ℚ) ≠
      ((∏ i ∈ Finset.Icc 1 8, (m + i) : ℕ) : ℚ) /
      ((∏ i ∈ Finset.Icc 1 8, (n + i) : ℕ) : ℚ) := by
  intro hratio
  rw [← intervalProduct_eq_prod_Icc m 8,
    ← intervalProduct_eq_prod_Icc n 8] at hratio
  have hnpos : (0 : ℚ) < (intervalProduct n 8 : ℚ) := by
    exact_mod_cast intervalProduct_pos n 8
  have hcross : (intervalProduct m 8 : ℚ) =
      4 * (intervalProduct n 8 : ℚ) := by
    exact ((eq_div_iff (ne_of_gt hnpos)).mp hratio).symm
  have hnat : intervalProduct m 8 = 4 * intervalProduct n 8 := by
    exact_mod_cast hcross
  exact no_four_ratio n m hdisjoint hnat

/-- The exact `N = 4`, `k = 8` existential statement has no witnesses. -/
theorem erdos_686_four_eight :
    ¬ ∃ (n m : ℕ), n + 8 ≤ m ∧
      (4 : ℚ) =
        ((∏ i ∈ Finset.Icc 1 8, (m + i) : ℕ) : ℚ) /
        ((∏ i ∈ Finset.Icc 1 8, (n + i) : ℕ) : ℚ) := by
  rintro ⟨n, m, hdisjoint, hratio⟩
  exact no_four_ratio_rational n m hdisjoint hratio

#print axioms erdos_686_four_eight

end Erdos686K8
```

</details>

<details>
<summary>lean-toolchain</summary>

SHA-256: `3aac669c7a910ec2389f4e4f921b605adf6ebf2d1e0c9b9cd0be4d33f3f5db71`

```text
leanprover/lean4:v4.33.1
```

</details>

<details>
<summary>lakefile.toml</summary>

SHA-256: `2d7509523ebc2c4cdfabad11657d3b2f33dcb8b874889180088a2027d55f06a6`

```toml
name = "erdos686k8"
version = "0.1.0"
defaultTargets = ["Erdos686K8"]

[[require]]
name = "mathlib"
git = "https://github.com/leanprover-community/mathlib4.git"
rev = "0df444a360eaa60ab8c11dca51a86af692955474"

[[lean_lib]]
name = "Erdos686K8"
roots = ["Erdos686K8", "StatementMatch"]
```

</details>

<details>
<summary>lake-manifest.json</summary>

SHA-256: `a842f7a9e0d4c8a750d348040a5e89f767e494287c721347d5ea044ebc6ac783`

```json
{
  "version": "1.2.0",
  "packagesDir": ".lake/packages",
  "packages": [
    {
      "url": "https://github.com/leanprover-community/plausible",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "b7eb3304aeae834b12dda98993a37f6a41f6f0bb",
      "name": "plausible",
      "manifestFile": "lake-manifest.json",
      "inputRev": "main",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/LeanSearchClient",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "5f4d51b81cbd3f6b32b156bfad9056621a040404",
      "name": "LeanSearchClient",
      "manifestFile": "lake-manifest.json",
      "inputRev": "main",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/import-graph",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "16f02aa7642864af59f1ff0e384a015994db9118",
      "name": "importGraph",
      "manifestFile": "lake-manifest.json",
      "inputRev": "main",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/ProofWidgets4",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "4be2e3d5087eeb272cf5a8853b8f9dd025ef5957",
      "name": "proofwidgets",
      "manifestFile": "lake-manifest.json",
      "inputRev": "main",
      "inherited": true,
      "configFile": "lakefile.lean"
    },
    {
      "url": "https://github.com/leanprover-community/aesop",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "3448c0bcc5ce01b2d1546e483ec3620e32df3d0e",
      "name": "aesop",
      "manifestFile": "lake-manifest.json",
      "inputRev": "master",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/quote4",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "92c15be17b7caf78c2ad767ec40f89052d908d81",
      "name": "Qq",
      "manifestFile": "lake-manifest.json",
      "inputRev": "master",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/batteries",
      "type": "git",
      "subDir": null,
      "scope": "leanprover-community",
      "rev": "4488d40d070b9700d4d5a6aa342f0d40c31b2a2d",
      "name": "batteries",
      "manifestFile": "lake-manifest.json",
      "inputRev": "main",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover/lean4-cli",
      "type": "git",
      "subDir": null,
      "scope": "leanprover",
      "rev": "6130a47896ce867c6a4a55373441e59e565bad0f",
      "name": "Cli",
      "manifestFile": "lake-manifest.json",
      "inputRev": "v4.33.0",
      "inherited": true,
      "configFile": "lakefile.toml"
    },
    {
      "url": "https://github.com/leanprover-community/mathlib4.git",
      "type": "git",
      "subDir": null,
      "scope": "",
      "rev": "0df444a360eaa60ab8c11dca51a86af692955474",
      "name": "mathlib",
      "manifestFile": "lake-manifest.json",
      "inputRev": "0df444a360eaa60ab8c11dca51a86af692955474",
      "inherited": false,
      "configFile": "lakefile.lean"
    }
  ],
  "name": "erdos686k8",
  "lakeDir": ".lake",
  "fixedToolchain": true
}
```

</details>

## Reproduction and local verification

Place the source and configuration files above in one directory, together with `Audit.lean` below. With the pinned Lean toolchain, run:

```sh
lake exe cache get Mathlib.Tactic Mathlib.Algebra.BigOperators.Intervals
lake build
lake env lean Audit.lean
```

The local check used Lean 4.33.1 on Apple Silicon macOS with third-party Mathlib binary caches. This is not a clean-room dependency rebuild, a two-checker verification, or an official reviewer attestation. The final theorem's transitive axiom list contains only `propext`, `Classical.choice`, and `Quot.sound`.

<details>
<summary>Audit.lean</summary>

SHA-256: `8262bc7a10a01807ad9e8c282c57a6e7c25330d15d6196159eabc96415619ff3`

```lean
import StatementMatch

#check Erdos686K8.erdos_686_four_eight
#print axioms Erdos686K8.erdos_686_four_eight

```

</details>

<details>
<summary>build.log</summary>

SHA-256: `cd21cfc5bd507273f2a91e90f20ede35af45dcc0ccfd80ca69f7a30e22bbc9cf`

```text
ℹ [3006/3008] Built Erdos686K8 (182s)
info: Erdos686K8.lean:112:0: 'Erdos686K8.no_four_ratio' depends on axioms: [propext, Classical.choice, Quot.sound]
ℹ [3007/3008] Built StatementMatch (144s)
info: StatementMatch.lean:62:0: 'Erdos686K8.erdos_686_four_eight' depends on axioms: [propext, Classical.choice, Quot.sound]
Build completed successfully (3008 jobs).
```

</details>

<details>
<summary>axioms.log</summary>

SHA-256: `79ca698e8e8ebf85e3989daa5ca0e505cb8b2a072df5b64c61ad40b774be36aa`

```text
Erdos686K8.erdos_686_four_eight :
  ¬∃ n m, n + 8 ≤ m ∧ 4 = ↑(∏ i ∈ Finset.Icc 1 8, (m + i)) / ↑(∏ i ∈ Finset.Icc 1 8, (n + i))
'Erdos686K8.erdos_686_four_eight' depends on axioms: [propext, Classical.choice, Quot.sound]
```

</details>

### Related records and conflicts

This result concerns existing entry JSP-000558. It does not request changing the entry to Solved, announcing an award, or attributing a complete solution. The proof package was prepared with AI assistance. No recipient identity or affiliation is proposed.

Please review whether this restricted lemma and formalization are suitable to record as partial progress for JSP-000558. No completed-solution status or award is requested.
